US06121480
4-methoxyphenylmagnesium bromide (280 g, 15% solution in tetrahydrofuran) is added dropwise over seven hours to a refluxing solution of 2-bromobenzonitrile (32 g), palladium (II) chloride (1.3 g) and triphenylphosphine (3.8 g) in tetrahydrofuran (210 ml). [HPLC: yield 94-95%]. After cooling to room temperature and the addition of water (50 ml), tetrahydrofuran is removed under vacuum. The residue is extracted with toluene (230 ml). Insoluble material is filtered off and the solvent distilled off. The crude product is recrystallised from ethanol to give 4'-methoxybiphenyl-2-carbonitrile as a solid, m.pt. 82-83° C. 1H NMR (CDCl3): 3.90(s,3H), 7.02(d,2H), 7.36-7.52(m,4H), 7.59-7.65(m,1H), 7.74(d,1H).

reactant | 4-methoxyphenylmagnesium bromide | 280 g | COC1=CC=C(C=C1)[Mg]Br
reactant | 2-bromobenzonitrile | 32 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | triphenylphosphine | 3.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 210 ml | O1CCCC1 | C4H8O
catalyst | palladium (II) chloride | 1.3 g | [Pd](Cl)Cl
product | 4'-methoxybiphenyl-2-carbonitrile | yield 94-95% | COC1=CC=C(C=C1)C=1C(=CC=CC1)C#N | C14H11NO
